US05763439
Into 300 ml of a 2-methoxyethanol solution of 27.4 g of 2-tert-butyl-5-chloro-4-dibromomethylpyridazin-3-(2H)-one, 200 ml of an aqueous solution of 39 g of silver nitrate was dropwise added at 10° C. over a period of 10 minutes, and the mixture was reacted for one hour under heating and refluxing. After cooling, insoluble matters were filtered off, and 500 ml of benzene was added to the filtrate. The mixture was washed with water, and the extract layer was dried over anhydrous sodium sulfate. The benzene was distilled off under reduced pressure to obtain 12.2 g of 2-tert-butyl-5-chloro-4-formylpyridazin-3-(2H)-one having a melting point of from 61° to 66° C.

reactant | 2-tert-butyl-5-chloro-4-dibromomethylpyridazin-3-(2H)-one | 27.4 g | C(C)(C)(C)N1N=CC(=C(C1=O)C(Br)Br)Cl | C9H11Br2ClN2O
reactant | 2-methoxyethanol | 300 ml | COCCO | C3H8O2
catalyst | silver nitrate | 39 g | [N+](=O)([O-])[O-].[Ag+]
product | 2-tert-butyl-5-chloro-4-formylpyridazin-3-(2H)-one | 12.2 g | C(C)(C)(C)N1N=CC(=C(C1=O)C=O)Cl | C9H11ClN2O2
